data/mechanism_extracts/ChemCommun/10.1039_D3CC05770D_sup_1.json
{"doi": "10.1039_D3CC05770D_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical aerobic oxidative C=C bond cleavage/oxyfunctionalization of 1,1,2-triaryl alkenes to α,α-diaryl ketones using O2 as the oxygen source", "mechanism_family": ["radical_cation", "radical_polar_crossover"], "electrochemical_role": "Anodic single-electron oxidation of the triaryl alkene to a vinyl/alkene radical cation (Ep,a ~0.918 V observed by CV under O2), which is then trapped by molecular oxygen", "key_intermediates": [{"name": "alkene radical cation of 1a (1,1,2-triphenylethylene)", "smiles": null, "role": "reactive"}, {"name": "peroxy/dioxetane intermediate from O2 addition to radical cation", "smiles": null, "role": "transient"}, {"name": "α,α-diaryl ketone product 2a", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes the triaryl alkene to its radical cation; molecular O2 (incorporated as shown by 18O2 labeling) adds to the radical cation to give a peroxy/dioxetane species that fragments/rearranges to the α,α-diaryl ketone. Water is not the oxygen source (no reaction under Ar with H2 18O).", "rate_determining_step": null, "probe_reagents": [{"name": "18O2 (isotopically labeled dioxygen)", "smiles": null, "purpose": "isotope_label", "observation": "Product 2a shows 18O incorporation by HRMS (found 275.1322 for C20H17 18O), confirming O2 as the oxygen source"}, {"name": "H2 18O (isotopically labeled water)", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Under Ar with various equivalents of H2 18O (0.5–2.0 equiv, or 4:1 CH3CN/H2O), no reaction (N.R.) — water is not the O source"}, {"name": "Cyclic voltammetry under N2 vs O2", "smiles": null, "purpose": "redox_probe", "observation": "An additional oxidation feature at ~0.918 V appears under O2 atmosphere, consistent with an O2-involved oxidation event"}], "evidence_types_used": ["H/D_labeling", "product_isotope_distribution", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "The 18O2 vs H2 18O double-labeling cleanly distinguishes O2 (operative) from H2O (inoperative) as the oxygen source. CV under O2 suggests interaction between O2 and the oxidized substrate/electrode. No radical traps (TEMPO/BHT) or DFT reported on these pages, so the exact peroxy intermediate (open peroxy vs 1,2-dioxetane) is not directly distinguished."}
